US07541482B2
Nitrogen gas was fed from the gas supply line 7 at 0.04 NL/min, and a feed pump was used to start feeding from the supply line 4 a mixed solution of the starting material and the reactant prepared as described above at 20 g/Hr. The holding time in the reactor was about 32 minutes. Low boiling point substances, including water, began to be extracted in gaseous form from the extraction vent line 5 and high boiling point components began to flow out from the extraction line 6. Continuous feeding and continuous extraction operation was continued in this state for 2 hours. Analysis of the generated product extracted from the extraction line 6 showed that, using dibutyltin oxide as a reference, the generated product contained a dibutyltin alkoxide consisting of about a 94% yield of dibutyl-bis(2-ethyl-butyloxy)tin and about 6% of 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-butyloxy)-distannoxane. Tributyltin(2-ethyl-butyloxide) had a yield of 0.4%. Upon cooling of the gas phase extracted from the extraction vent line 5, a two-layer transparent liquid was obtained, in which moisture was present. The dehydration rate in the column reactor was 0.0033 mol/Hr, which was greater than the value 0.0005 mol/Hr calculated from expression (16).

reactant | 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-butyloxy)-distannoxane | C(CCC)[Sn](O[Sn](OCC(CC)CC)(CCCC)CCCC)(OCC(CC)CC)CCCC
solvent | water | O | H2O
product | dibutyl-bis(2-ethyl-butyloxy)tin | 94% yield | C(CCC)[Sn](OCC(CC)CC)(OCC(CC)CC)CCCC | InChI=1S/2C6H13O.2C4H9.Sn/c2*1-3-6(4-2)5-7;2*1-3-4-2;/h2*6H,3-5H2,1-2H3;2*1,3-4H2,2H3;/q2*-1;;;+2
